.title Inverting Amplifier (Gain = -10)

VCC 10 0 DC 15
VEE 11 0 DC -15

R1 1 2 10k
R2 2 3 100k

OP 3 0 2 10 11 TL072

.input 1
.output 3
.probe opamp-02-inverting-amplifier.csv V(input) V(1) V(3)
.include circuits/models/opamps.lib
* V(3) = - V(1) * ( R2 / R1 )